*Memoria w/ 1 bitcell

simulator lang=spice

.include 'TRISTATE.spi'
.include 'INV.spi'
.include 'PassTransistor.spi'
.include '45nm_LP.pm'

.param Vwrite=1
.param Tp_wl=0.7n
.param Tp_en=0.6n
.param cap=15f

Vwl WL Gnd3 PWL 0 0 '(Tp_wl-1p)' 0 'Tp_wl' 1 (1n+1p) 1 (1n+2p) 0 '(Tp_wl+3n-1p)' 0 'Tp_wl+3n' 1 (4n+1p) 1 (4n+2p) 0

Vwdb WDB Gnd2 PWL 0 0 (1.5n-1p) 0 1.5n 'Vwrite' 
Vwd WD Gnd1   PWL 0 'Vwrite' (1.5n-1p) 'Vwrite' 1.5n 0

Venb ENB Gnd PWL 0 1 '(Tp_en-1p)' 1 'Tp_en' 0 (1n+1p) 0 (1n+2p) 1 '(Tp_en+2.9n-1p)' 1 'Tp_en+2.9n' 0 (4n+1p) 0 (4n+2p) 1
Ven EN Gnd PWL 0 0 '(Tp_en-1p)' 0 'Tp_en' 1 (1n+1p) 1 (1n+2p) 0 '(Tp_en+2.9n-1p)' 0 'Tp_en+2.9n' 1 (4n+1p) 1 (4n+2p) 0

Vpre PRE Gnd4 1

Vvdd Vvdd Gnd5 1
Vdd Vdd Gnd 1
Vgnd Gnd 0 0
Vgnd1 Gnd1 0 0
Vgnd2 Gnd2 0 0
Vgnd3 Gnd3 0 0
Vgnd4 Gnd4 0 0
Vgnd5 Gnd5 0 0

*Bitcell
*Inversor A Y VDD VSS 
X0 Q QB Vdd Gnd INV
X1 QB Q Vdd Gnd INV
*Transistor Drain Gate Source Bulk
M_i_0 BL WL Q Gnd NMOS_VTL W=0.415000U L=0.050000U
M_i_1 BLB WL QB Gnd NMOS_VTL W=0.415000U L=0.050000U

*Write cell
*TRISTATE A Y EN ENB VDD VSS 
X3 WD BL EN ENB Vdd Gnd TI
X2 WDB BLB EN ENB Vdd Gnd TI

*Pre Charge
M_i_2 BL PRE Vvdd Vdd PMOS_VTL W=0.630000U L=0.050000U
M_i_3 BLB PRE Vvdd Vdd PMOS_VTL W=0.630000U L=0.050000U
M_i_4 BL PRE BLB Vdd PMOS_VTL W=0.630000U L=0.050000U

*Bitlines Capacitance
Cbl BL Gnd 'cap'
Cblb BLB Gnd 'cap'

.TRAN 10p 2n

.option rawfmt="psfbin"
